US07589232B2
Step b) Formation of methyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-2-fluorobenzoate
The titled compound was prepared following the procedure B using methyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate and 3-cyclopentylpropionyl chloride as a pale yellow oil (54%). M+ (ESI): 540.1. HPLC, Rt: 6.35 min (Purity: 98.2%).

reactant | methyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC(=C(C(=O)OC)C=C2)F)C=C1 | C27H26FNO2
reactant | 3-cyclopentylpropionyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | methyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC(=C(C(=O)OC)C=C2)F)C(CCC2CCCC2)=O)C=C1 | C35H38FNO3
